US20010027196A1
2-Amino-4-pyrazol-1-yl-6-(4-trifluoromethyl-benzylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile and 4-trifluoromethylbenzylamine in DME. ES-MS m/e (%): 360 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | 4-trifluoromethylbenzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-pyrazol-1-yl-6-(4-trifluoromethyl-benzylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1N=CC=C1)C#N)NCC1=CC=C(C=C1)C(F)(F)F | C16H12F3N7
